US06087380
1-Methyl-2-[(3-amidinophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-pyrrolidide-hydrochloride
Prepared analogously to Example 32 from 1-methyl-2-[(3-cyanophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-pyrrolidide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 71% of theory, C20H23N5O3S (413.5) EKA mass spectrum: (M+H)+ =414

reactant | 1-methyl-2-[(3-cyanophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-pyrrolidide | CN1C(=NC2=C1C=CC(=C2)S(=O)(=O)N2CCCC2)COC2=CC(=CC=C2)C#N | C20H20N4O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[(3-amidinophenyl)oxymethyl]-benzimidazol-5-yl-sulphonic acid-pyrrolidide-hydrochloride | Yield: 71% | Cl.CN1C(=NC2=C1C=CC(=C2)S(=O)(=O)N2CCCC2)COC2=CC(=CC=C2)C(N)=N | InChI=1S/C20H23N5O3S.ClH/c1-24-18-8-7-16(29(26,27)25-9-2-3-10-25)12-17(18)23-19(24)13-28-15-6-4-5-14(11-15)20(21)22;/h4-8,11-12H,2-3,9-10,13H2,1H3,(H3,21,22);1H
